US06110952
A solution of 4-amino-3-ethyl-2-nitroanisole (19.37 mmol) and triethylamine (20.34 mmol) in dichloromethane (25 mL) is treated with trifluoroacetic anhydride (20.34 mmol). The mixture is stirred for one hour. The reaction mixture is distributed between methylene chloride (50 mL) and hydrochloric acid (50 mL of a 1.0 M solution). The methylene chloride layer is dried over magnesium sulfate and concentrated under reduced pressure to yield 3-ethyl-2-nitro-4-trifluoroacetamidoanisole as a solid.

reactant | 4-amino-3-ethyl-2-nitroanisole | 19.37 mmol | NC1=C(C(=C(C=C1)OC)[N+](=O)[O-])CC | C9H12N2O3
reactant | triethylamine | 20.34 mmol | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 20.34 mmol | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-ethyl-2-nitro-4-trifluoroacetamidoanisole | C(C)C=1C(=C(C=CC1NC(C(F)(F)F)=O)OC)[N+](=O)[O-] | C11H11F3N2O4
